Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
lung nodules
 
Major Surgical or Invasive Procedure:
1) right VATS wedge resection x 3 on ___

 
History of Present Illness:
Mr ___ is a ___ with melanoma
of the right shoulder diagnosed by Dr. ___ in Dermatology 
after
a shave biopsy of a skin lesion was found to be a malignant
melanoma, invasive, nodular type, level IV, 4.1 mm in depth. He
then underwent a wide excision of the right shoulder with right
modified radical neck dissection on ___ with Dr.
___ pathology of which showed no disease at the
site of the original tumor and 1 of 31 lypmh nodes positive for
melanoma, 2.5cm in maximal diameter with suspicion for
extracapsular extension.  He has been followed by Dr. ___ oncology here at ___, as well as by Dr. ___ of
oncology (___) in ___, who are planning to
start him on interferon therapy now that he has completed his
post-op radiation therapy in ___. He had a chest CT done
___ for surveillance done at ___ that
has two small foci in the right lower lobe highly suspicious for
metastatic disease of the lung that were not present on a CT
Chest done here at ___ on ___. 
 
Past Medical History:
Atrial fibrillation, 
hypercholesterolemia,
gout, 
umbilical hernia, 
diabetes, 
sleep apnea, 
polyps
met melanoma right neck/shoulder ___, s/p wide local 
excision
and right neck dissection on ___, which showed
residual melanoma at the primary site, but a large 2.5 cm lymph
node was noticed with
extracapsular extension and focus. completed XRT
squamous cell ca left hand

 
Social History:
___
Family History:
brother with colon cancer in his ___
 
Physical Exam:
T 98.3  HR 78  BP 124/84  RR 22  SPO2 90% RA
NAD, AOx3
regular rate, irregular rhythm
CTAB, right chest incisions c/d/i with no erythema or drainage
SNTND, obese
extr wwp
 
Brief Hospital Course:
___ admitted to the thoracic surgery service following a right 
VATS wedge resection x3 for pulmonary nodules concerning for 
metastatic foci of melanoma, please see separate operative 
dictation for details of procedure. 
Post-operatively he was taken to the PACU for recovery, where he 
had rapid ventricular response (has chronic afib) that required 
a diltiazem drip for a few hours following evening 
administration of his usual oral rate control medications. The 
morning of POD 1 his HR was under control on oral medicines and 
he
subsequently transferred to the floor. His initial post-op CXR 
showed a right chest tube in place and no evidence of 
pneumothorax. His diet was advanced to regular, he was placed on 
his home medications, and his pain was controlled with oxycodone 
and tylenol. On POD 1 he had no air leak and was clinically 
doing well, so his right chest tube was removed and the 
post-pull CXR showed minimal right pneumothorax in the apex. He 
was restarted on his home coumadin for Afib. On POD 2 his O2 
saturations did fall in to the high 80's in the early morning 
requiring supplemental O2, but he was given a dose of lasix and 
by mid-day his SPO2 was around 90-91% on RA at rest and he did 
not have any issues with desaturating while walking. A repeat 
CXR was performed that showed no interval change in the small 
right apical PTX, and he continued to do well clinically with 
stable vital signs.  He was ambulating and voiding without 
assistance, tolerating a regular 
diet, and his pain was controlled with PO pain medicines, so he 
was deemed stable for discharge home with follow-up in thoracic 
surgery clinic with Dr. ___.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Enalapril Maleate 5 mg PO DAILY 
2. Albuterol Inhaler ___ PUFF IH Q4-6 HOURS SOB 
3. Carbidopa-Levodopa CR (50-200) 1 TAB PO DAILY 
4. fenofibrate micronized *NF* 200 mg Oral daily 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. glimepiride *NF* 4 mg Oral daily 
7. Viagra *NF* (sildenafil) 50 mg Oral as needed for sex 
8. Simvastatin 20 mg PO DAILY 
9. Janumet *NF* (sitagliptin-metformin) 50-1,000 mg Oral BID 
10. TraMADOL (Ultram) 50-100 mg PO QHS:PRN back pain 
11. Verapamil SR 240 mg PO Q24H afib 
12. Warfarin 3 mg PO 2X/WEEK (TH,SA) afib 
___ and ___ 
13. Lorazepam 1 mg PO PRN anxiety 
14. Warfarin 4 mg PO 5X/WEEK (___) afib 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H 
2. Carbidopa-Levodopa CR (50-200) 1 TAB PO DAILY 
3. Enalapril Maleate 5 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. glimepiride *NF* 4 mg Oral daily 
6. Janumet *NF* (sitagliptin-metformin) 50-1,000 mg Oral BID 
7. Simvastatin 20 mg PO DAILY 
8. TraMADOL (Ultram) 50-100 mg PO QHS:PRN back pain 
9. Verapamil SR 240 mg PO Q24H afib 
10. Albuterol Inhaler ___ PUFF IH Q4-6 HOURS SOB 
11. Atenolol 25 mg PO BID 
12. Docusate Sodium 100 mg PO BID 
13. Milk of Magnesia 30 mL PO HS:PRN constipation 
14. OxycoDONE (Immediate Release)  10 mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 3 hours Disp 
#*60 Tablet Refills:*0
15. Paroxetine 20 mg PO DAILY 
16. fenofibrate micronized *NF* 200 mg ORAL DAILY 
17. Lorazepam 1 mg PO PRN anxiety 
18. Viagra *NF* (sildenafil) 50 mg Oral as needed for sex 
___. Warfarin 3 mg PO 2X/WEEK (TH,SA) afib 
20. Warfarin 4 mg PO 5X/WEEK (___) afib 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) right lower lobe lung nodules

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge.
* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage. Cover the area with a gauze pad if it is draining.
* Your chest tube dressing may be removed in 48 hours. If it 
starts to drain, cover it with a clean dry dressing and change 
it as needed to keep site clean and dry.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems. Use a stool softener or gentle laxative to 
stay regular.
* No driving while taking narcotic pain medication.
* Take Tylenol ___ mg every 6 hours in between your narcotic. 
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
* No tub bathing, swimming or hot tubs until incision healed
* No lotions or creams to incision site
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.

 
Followup Instructions:
___